US04337201
(S)-4-Azido-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, methyl ester
(S)-4-Azido-1-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, methyl ester (1.60 g), dry dichloromethane and bromotrimethylsilane (0.85 g) are stirred under argon at room temperature. After 19 hours, an additional equivalent of bromotrimethylsilane is added and stirring is continued for 2 hours. Excess bromotrimethylsilane and dichloromethane is removed in vacuo and the residue is treated with ethyl acetate/water and stirred for 15 minutes. The layers are separated and the ethyl acetate layer is extracted with saturated sodium bicarbonate. The aqueous extracts are acidified to pH 1.0 with concentrated hydrochloric acid and extracted with ethyl acetate. The extract is washed with water, brine, dried over sodium sulfate, and the solvent stripped to yield 1.35 g of the title compound as an oil.

reactant | (S)-4-Azido-1-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, methyl ester | 1.60 g | N(=[N+]=[N-])C1C[C@H](N(C1)C(CP(=O)(CCCCC1=CC=CC=C1)OCC)=O)C(=O)OC | C20H29N4O5P
reactant | bromotrimethylsilane | 0.85 g | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-4-Azido-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, methyl ester | 1.35 g | N(=[N+]=[N-])C1C[C@H](N(C1)C(CP(=O)(CCCCC1=CC=CC=C1)O)=O)C(=O)OC | C18H25N4O5P
